US07626056B2
2,4-Dichloro-N-[(8-cyclopropylmethyl-1,4-dioxaspiro[4.5]dec-8-yl)methyl]benzamide
To a solution of {[8-(cyclopropylmethyl)-1,4-dioxaspiro[4.5]dec-8-yl]methyl}amine (7 g; 31.0 mmol) and n-ethyldiisopropylamine (6.45 ml; 37.2 mmol) in DCM (60 ml) at 0° C. was added 2,4-dichlorobenzoyl chloride (4.781 ml; 34.17 mmol) dropwise and the solution stirred for 4 hours warming to ambient temperature. The reaction was partitioned between DCM (50 ml) and water (20 ml). The aqueous phase was extracted with DCM (20 ml) and the combined organics dried over MgSO4, filtered and evaporated to give a colourless oil which was used in the next step without further purification. (11.5 g) 1H NMR δ (ppm)(CDCl3): 7.67 (1H, d, J=8.3 Hz), 7.43 (1H, d, J=2.0 Hz), 7.32 (1H, dd, J=2.0, 8.4 Hz), 6.25 (1H, s), 3.93 (4H, s), 3.56 (2H, d, J=6.2 Hz), 1.67 (8H, m)), 1.33 (2H, d, J=6.7 Hz), 0.75-0.65 (1H, m), 0.51-0.47 (2H, m), 0.05 (2H, q, J=5.0 Hz). MS (m/e)=398

reactant | {[8-(cyclopropylmethyl)-1,4-dioxaspiro[4.5]dec-8-yl]methyl}amine | 31.0 mmol, 7 g | C1(CC1)CC1(CCC2(OCCO2)CC1)CN | C13H23NO2
reactant | n-ethyldiisopropylamine | 37.2 mmol, 6.45 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichlorobenzoyl chloride | 34.17 mmol, 4.781 ml | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-N-[(8-cyclopropylmethyl-1,4-dioxaspiro[4.5]dec-8-yl)methyl]benzamide | ClC1=C(C(=O)NCC2(CCC3(OCCO3)CC2)CC2CC2)C=CC(=C1)Cl | C20H25Cl2NO3
